US08134007B2
2-[2-chloro-5-(2-methoxyethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane
Methanesulfonic acid 2-methoxyethyl ester (70.5 mg, 0.50 mmol) and 2-[2-chloro-5-hydroxyphenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane (Preparation 66,100 mg, 0.42 mmol) were stirred together in N,N-dimethylacetamide (4 ml). Potassium carbonate (58 mg, 0.42 mmol) was added and the resultant solution was heated to 100° C. for 10 hours. The reaction mixture was cooled then quenched with water (10 ml) and extracted with ethylacetate (10 ml). The organic layer was dried over anhydrous MgSO4 (s), filtered and evaporated in vacuo to give crude title compound. Material taken on without further purification.

reactant | Methanesulfonic acid 2-methoxyethyl ester | 0.50 mmol, 70.5 mg | COCCOS(=O)(=O)C | C4H10O4S
reactant | 2-[2-chloro-5-hydroxyphenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 0.42 mmol, 66,100 mg | ClC1=C(C=C(C=C1)O)B1OC(C(O1)(C)C)(C)C | C12H16BClO3
reactant | Potassium carbonate | 0.42 mmol, 58 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | 2-[2-chloro-5-(2-methoxyethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | ClC1=C(C=C(C=C1)OCCOC)B1OC(C(O1)(C)C)(C)C | C15H22BClO4
